US04377587
N-(1'-methoxycarbonylethyl)-N-ethoxyacetyl-2,6-dimethyl-3-nitroaniline
To a solution of 3 g of 55% sodium hydride in 70 ml of anhydrous tetrahydrofuran saturated with nitrogen is added dropwise, at room temperature, with stirring and while simultaneously introducing nitrogen, a solution of 16 g N-ethoxyacetyl-2,6-dimethyl-3-nitroaniline in 30 ml of the same solvent. After the weakly exothermic reaction has subsided, the mixture is heated to 55° C. and 12.7 g of methyl 2-bromopropionate in 20 ml of tetrahydrofurane are added. During this addition the temperature rises to 60° C. The mixture is stirred for 12 hours at 55° C., then cooled to room temperature, poured into 100 ml of water and extracted with two 100 ml portions of ethyl acetate. The combined extracts are washed with water, dried over sodium sulfate, and excess solvent is removed in vacuo. The oily crude product is purified by column chromatography over silica gel, using a 1:1 mixture of chloroform/diethyl ether as eluant. Fractions 5 to 30 are combined and the eluant is removed in vacuo. Compound 31 is a viscous oil with a refractive index of nD24 =1.5325.

reactant | sodium hydride | 3 g | [H-].[Na+]
reactant | N-ethoxyacetyl-2,6-dimethyl-3-nitroaniline | 16 g | C(C)OCC(=O)NC1=C(C(=CC=C1C)[N+](=O)[O-])C | C12H16N2O4
reactant | methyl 2-bromopropionate | 12.7 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 20 ml | O1CCCC1 | C4H8O
product | N-(1'-methoxycarbonylethyl)-N-ethoxyacetyl-2,6-dimethyl-3-nitroaniline | COC(=O)C(C)N(C1=C(C(=CC=C1C)[N+](=O)[O-])C)C(COCC)=O | C16H22N2O6
